US04692257
1,2-Hexadecanediol Borate
Approximately 86 g of 1,2-hexadecanediol and approximatel 200 g toluene solvent was charged to a 1 liter reactor equipped with agitator, heater and Dean-Stark tube with condenser. The contents wee heated up to ~80°-90° C. to dissolve the diol and approximately 11 g boric acid was added. The mixture was heated up to 155° C. until water evolution stopped over a period of ~4 hours. Approximately 9 ml water was removed by azeotropic distillation. The solvent was removed by vacuum distillation and the product was filtered at 100° C. through diatomaceous earth. The product became waxy after cooling.

reactant | 1,2-hexadecanediol | 86 g | C(C(CCCCCCCCCCCCCC)O)O | C16H34O2
reactant | boric acid | approximately 11 g | B(O)(O)O | BH3O3
reactant | water | O | H2O
solvent | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
product | 1,2-Hexadecanediol Borate | B(O)(O)O.C(C(CCCCCCCCCCCCCC)O)O | InChI=1S/C16H34O2.BH3O3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-16(18)15-17;2-1(3)4/h16-18H,2-15H2,1H3;2-4H
